US05763489
A solution of benzhydryl N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate (60 mg) in a mixture of 1N sodium hydroxide aqueous solution (0.20 ml), methanol (1 ml), and 1,2-dimethoxyethane (1 ml) was stirred at room temperature for 30 minutes, neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was powdered from diisopropyl ether to afford benzhydryl N-[[1,2,3,4-tetrahydro-5-(carboxymethoxy)-2-naphthyl]methyl]carbamate (51 mg) as a colorless powder. mp: 160°-161° C.

reactant | benzhydryl N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate | 60 mg | COC(=O)COC1=C2CCC(CC2=CC=C1)CNC(OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H29NO5
reactant | methanol | 1 ml | CO | CH4O
reactant | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 0.20 ml | [OH-].[Na+]
product | benzhydryl N-[[1,2,3,4-tetrahydro-5-(carboxymethoxy)-2-naphthyl]methyl]carbamate | 51 mg | C(=O)(O)COC1=C2CCC(CC2=CC=C1)CNC(OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H27NO5
